US05840751
4-Hydroxy-3-[(1-isopropyl-1,4,5,6-tetrahydro-pyrimidine-2-yl)thio]-6-phenyl-5,6-dihydro-2H-pyran-2-one.
The title compound was prepared as described in example 41 using the following: 5,6-dihydro-4-hydroxy-6-phenyl-6-(2-phenylethyl)-2H-pyran-2-one (0.250 g, 0.850 mmol), t-butanol (3.5 mL), n-bromosuccinimide (0.151 g, 0.85 mmol), CH2Cl2 (6.0 mL), 1-isopropyltetrahydropyrimidine-2-thione (0.270 g, 1.70 mmol, prepared by the method described by A. F. McKay et al., J. Am. Chem. Soc., 78: 1618 (1956)), piperidine (0.084 mL, 0.85 mmol). Purification was achieved by submitting the final residue to column chromatograpy (SiO2, 1/1 CH2Cl2 /ethyl acetate to 2/14/1 ethyl acetate/CH2Cl2 /methanol) to provide a solid which was redissolved in CH2Cl2, filtered through a fiberglass filter, and the solvent removed in vacuo to provide the title compound (0.356 g, m.p. 103°-105° C). 1H NMR (400 MHz, DMSO-d6) δ 7.440-7.371 (m, 4 H), 7.296 (t, 1 H, J=7 Hz), 7.233 (t, 2 H, J=7 Hz), 7.139 (t, 1 H, J=7 Hz), 7.077 (d, 2 H, J=7 Hz), 6.515 (bs, 1 H), 4.365-4.300 (m, 1 H), 3.335-3.308 (m, 2 H), 3.024 -2.924 (m, 4 H), 2.624-2.548 (m, 1 H), 2.341-2.265 (m, 1 H), 2.156-2.061 (m, 2 H), 1.763-1.737 (m, 2 H), 1.201-1.180 (m, 6 H).

reactant | 5,6-dihydro-4-hydroxy-6-phenyl-6-(2-phenylethyl)-2H-pyran-2-one | 0.850 mmol, 0.250 g | OC1=CC(OC(C1)(CCC1=CC=CC=C1)C1=CC=CC=C1)=O | C19H18O3
reactant | n-bromosuccinimide | 0.85 mmol, 0.151 g | C1CC(=O)N(C1=O)Br | C4H4BrNO2
reactant | 1-isopropyltetrahydropyrimidine-2-thione | C(C)(C)N1C(NCCC1)=S | C7H14N2S
reactant | piperidine | 0.85 mmol, 0.084 mL | N1CCCCC1 | C5H11N
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 6.0 mL | C(Cl)Cl | CH2Cl2
solvent | t-butanol | 3.5 mL | C(C)(C)(C)O | C4H10O
product | 4-Hydroxy-3-[(1-isopropyl-1,4,5,6-tetrahydro-pyrimidine-2-yl)thio]-6-phenyl-5,6-dihydro-2H-pyran-2-one | 0.356 g | OC1=C(C(OC(C1)C1=CC=CC=C1)=O)SC=1N(CCCN1)C(C)C | C18H22N2O3S
